US04562153
86.6 grams of this mixture of equal parts of N-acetyl-leucine and N-acetyl-isoleucine were suspended in 400 ml of water and adjusted to pH 7.0 with 50% aqueous sodium hydroxide. There were added 50 mg of CoCl2X6H2O and 50 mg of commerical pig kidney acylase (1200 U/mg) and the mixture was filled up to 500 ml with water. The clear solution was stirred at 36° C. for 6 hours. By filtering with suction, washing and drying there were obtained 17.9 grams of pure L-leucine having a rotary value of [α]D25 =+15.9°.

reactant | N-acetyl-leucine | C(C)(=O)N[C@@H](CC(C)C)C(=O)O | C8H15NO3
reactant | N-acetyl-isoleucine | C(C)(=O)N[C@@H]([C@@H](C)CC)C(=O)O | C8H15NO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 400 ml | O | H2O
product | L-leucine | 17.9 grams | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
